US07504524B2
A solution of 1 g of cyclic keto-ester (7.8 mmol), 2.7 g of metachloroperbenzoic acid (2 eq.) and 70 μl of trifluoromethanesulphonic acid (0.1 eq.) in 20 ml of dichloromethane is left under stirring at ambient temperature for 3 hours. The solvent is eliminated under vacuum, then the medium is analyzed. NMR 1H reveals the complete conversion of the ring with 5 members and the formation of mostly 3,3-dimethyl-2,5-dioxane-1,4-dione (spectroscopic yield: 60%).

reactant | metachloroperbenzoic acid | 2.7 g, 2 eq. | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | trifluoromethanesulphonic acid | 70 μl, 0.1 eq. | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3,3-dimethyl-2,5-dioxane-1,4-dione | yield: 60% | CC1(OC(COC1=O)=O)C | C6H8O4
